Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C@:3]1([H:4])[C:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-0.0332815661104
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[O:8],1.77516732473
[H:1][O:2][C:3](=[C:4][H:5])[C:7](=[O:6])[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]1=[C:4]([H:5])[O:6][C:7]1=[C:8]([H:9])[H:10],-1.80111086697
[H:1][C:2]#[C:3][O:4][C:5]#[C:7][O:8][H:9].[H:6]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[O:8][H:9],-2.88309345717
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:7]([H:8])[O:9][H:10].[H:6],3.08782154588
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[H:5],1.11933596585
[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][H:7]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][H:7],-2.49359072249
[C:1]#[C:2][C:7]([H:8])([H:9])[H:10].[C:3](=[O:4])[O:5][H:6]>>[C:1]=[C:2]([C:3](=[O:4])[O:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.36065877496
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],4.64235995475
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8][H:9]>>[H:4].[O:1]=[C:2]([H:3])[C:5]#[C:6][O:7][C:8][H:9],1.10937675566
[H:1][C:2][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-5.56285270288
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4],4.02634469712
[H:1][C:2]([H:3])[O:4][C:5][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.15273694191
[C:1]=[C:2]([O:3][O:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2][C:5]([H:6])=[C:7]([H:8])[H:9].[O:3]=[O:4],0.0167267754905
[H:16].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.55258525517
[C:8]([H:9])([H:10])[H:11].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2](=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.31415918569
[C:3]([H:4])#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10],-4.44033536685
[O:1][C:2]#[C:3][H:4]>>[H:4].[O:1][C:2][C:3],4.46706706454
[C:1].[O:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1][O:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-2.66808462821
[C:4]#[C:5][H:6].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]#[C:5][H:6],-7.40266555862
[H:1][C:2]=[C:3]1[C:4](=[C:5]([H:6])[H:7])[O:8][C:9]1([H:10])[H:11]>>[H:1][C:2]#[C:3][C:9]([O:8][C:4]=[C:5]([H:6])[H:7])([H:10])[H:11],0.87936382427
[C:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:4](=[C:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:3],3.41377838113
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9]/[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.85424166085
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.06480304909
[O:1][C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15].[O:1],4.1408763821
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8]>>[O:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7][H:8],-0.7273692025599999
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],7.146497782010001
[H:1][C:2]=[C:3]([C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2]=[C:3]([C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.961616987569999
[C:4]([H:5])=[C:6]([H:7])[O:8][H:9].[H:1][O:2][C:3][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.59232207549
[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.80746614091
